US03947456
The free base isolated from 8.0 g. of rac.-4-(3-chlorophenyl)-1,2,3,4-tetrahydro-7-methoxyisoquinoline hydrochloride is taken up in 150 ml. of methanol, 6 ml. of a 35% formaldehyde solution are added and the mixture is shaken until the precipitate formed again completely dissolves. The mixture is thereupon hydrogenated over 6 g. of Raney nickel, filtered and, after acidification with ethanolic hydrogen chloride, crystallized. Recrystallization from methanol-ether gives rac.-4-(3-chlorophenyl)-1,2,3,4-tetrahydro-7-methoxy-2-methylisoquinoline hydrochloride, m.p. 250°-251°.

reactant | rac.-4-(3-chlorophenyl)-1,2,3,4-tetrahydro-7-methoxyisoquinoline hydrochloride | Cl.ClC=1C=C(C=CC1)C1CNCC2=CC(=CC=C12)OC
reactant | formaldehyde | C=O | CH2O
solvent | methanol | CO | CH4O
product | rac.-4-(3-chlorophenyl)-1,2,3,4-tetrahydro-7-methoxy-2-methylisoquinoline hydrochloride | Cl.ClC=1C=C(C=CC1)C1CN(CC2=CC(=CC=C12)OC)C | InChI=1S/C17H18ClNO.ClH/c1-19-10-13-9-15(20-2)6-7-16(13)17(11-19)12-4-3-5-14(18)8-12;/h3-9,17H,10-11H2,1-2H3;1H
